US07160885B2
Preparation of 2-(4-Chloro-phenyl)-N-{3-[8-(2-phenyl-imidazol-1-yl)-imidazo[1,2-a]pyrazin-6-yl]-phenyl}-acetamide
Solid 3-[8-(2-Phenyl-imidazol-1-yl)-imidazo[1,2-a]Pyrazin-6-yl]-phenylamine (50 mg) (7) is added to an anhydrous 0.2 M solution of (4-Chloro-phenyl)-acetyl chloride in toluene (0.7 mL) at room temperature, and 0.25 ml of anhydrous DMF is subsequently added to solubilize the reagents. The reaction is warmed to 50° C. and stirred under N2 for 3 hours. The reaction is cooled to room temperature. Diethyl ether (15 ml) is then added slowly and the resulting tan solid 2-(4-Chloro-phenyl)-N-{3-[8-(2-phenyl-imidazol-1-yl)-imidazo[1,2-a]pyrazin-6-yl]-phenyl}-acetamide (60 mg) (8) is filtered and washed with diethyl ether and dried under vacuum.

reactant | 3-[8-(2-Phenyl-imidazol-1-yl)-imidazo[1,2-a]Pyrazin-6-yl]-phenylamine | 50 mg | C1(=CC=CC=C1)C=1N(C=CN1)C=1C=2N(C=C(N1)C=1C=C(C=CC1)N)C=CN2 | C21H16N6
reactant | (4-Chloro-phenyl)-acetyl chloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | DMF | 0.25 ml | CN(C)C=O | C3H7NO
reactant | Diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | toluene | 0.7 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Chloro-phenyl)-N-{3-[8-(2-phenyl-imidazol-1-yl)-imidazo[1,2-a]pyrazin-6-yl]-phenyl}-acetamide | ClC1=CC=C(C=C1)CC(=O)NC1=CC(=CC=C1)C=1N=C(C=2N(C1)C=CN2)N2C(=NC=C2)C2=CC=CC=C2 | C29H21ClN6O
